US07696223B2
d) {[7-Hydroxy-2-(4-methoxy-phenyl)-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid
A mixture of 7-hydroxy-2-(4-methoxy-phenyl)-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (76 mg, 0.23 mmol) and glycine (345 mg, 4.59 mmol) in 0.5 M sodium methoxide/methanol (8.7 mL) was refluxed for 3 days before it was cooled to room temperature and concentrated in vacuo. Water (20 mL) was added and the suspension was adjusted to pH=10 with 1N HCl (3 mL). The mixture was extracted with dichloromethane. And the remaining aqueous layer was acidified to pH=3 with 1N HCl (5 mL). The suspension was extracted with 2-isopropanol/chloroform (1:3, 50 mL). The organic layer was concentrated and dried in vacuo to give the title compound as a yellow solid (25 mg): 1H NMR (DMSO-d6, 200 MHz): δ=12.28 (s, 1H), 9.42 (t, 1H), 8.88 (s, 1H), 8.13 (d, J=8.8 Hz, 2H), 7.16 (d, J=8.8 Hz, 2H), 4.03 (d, J=5.6 Hz, 2H), 3.88 (s, 3H); MS: (+) m/z 359.94 (M+1), (−) m/z 357.92 (M−1).

reactant | 7-hydroxy-2-(4-methoxy-phenyl)-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.23 mmol, 76 mg | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C2=CC=C(C=C2)OC)O | C16H14N2O4S
reactant | glycine | 4.59 mmol, 345 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 8.7 mL | C[O-].[Na+].CO
product | {[7-Hydroxy-2-(4-methoxy-phenyl)-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid | 25 mg | OC=1C2=C(C=NC1C(=O)NCC(=O)O)N=C(S2)C2=CC=C(C=C2)OC | C16H13N3O5S
